US09212187B2
Synthesis of 7-(2-chloroethoxy)-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione
1-Ethyl-7-hydroxy-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione(1.2 g) and potassium carbonate(0.95 g) were added to 50% hydrous acetonitrile(24 ml). The mixture was heated to 70° C. to be dissolved. 1-Bromo-2-chloroethane(1.9 ml) was added, and the mixture was heated under reflux for 7 hours. The reaction mixture was cooled to room temperature. Water was added thereto, followed by extraction by ethyl acetate. The organic layer was dried by sodium sulfate, and condensed under reduced pressure. The residue was purified by silica gel column chromatography (hexane: ethyl acetate=2:1→1:1). The purified product was condensed to dryness under reduced pressure to give the title compound(1.4 g) as a colorless oily matter.

reactant | 1-Ethyl-7-hydroxy-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 1.2 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)O | C14H18N2O3
reactant | potassium carbonate | 0.95 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 24 ml | C(C)#N | C2H3N
reactant | 1-Bromo-2-chloroethane | 1.9 ml | BrCCCl | C2H4BrCl
solvent | Water | O | H2O
product | 7-(2-chloroethoxy)-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 1.4 g | ClCCOC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC)C=C1 | C16H21ClN2O3
